US06583133B1
To a suspension of 1.4 g (E)-(6R,7R)-7-amino-3-[3-(carbamoylmethyl-dimethyl-ammonio)-propenyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate monohydroiodide in 24 ml of dichloromethane/acetonitrile (1:1) was added 4 ml of N,O-Bis(trimethylsilanyl)trifluoroacetamide and the mixture was stirred at 20° for 0.5 h. After cooling of the reaction mixture to 0°, 2.05 g of (R)-2-bromo-propionyl chloride was added and stirring was continued for 5 min. The solution was dropped onto 0.5 l of diethyl ether containing 0.2 ml of water. The mixture was stirred for 0.5 h and subsequently, the precipitate was isolated by filtration, washed with 50 ml of diethyl ether, and dried. The brown solid was suspended in 5 ml of water. After adjusting the pH to 2.5 by the addition of 2N NaOH, 0.3 l of 2-propanol were added and the mixture was stirred at 20° for 0.5 h. The precipitate was filtered off, washed with 50 ml of diethyl ether and dried, to give 1.3 g of (E)-(6R,7R)-7-[(R)-2-bromo-propionylamino]-3-[3-(carbamoylmethyl-dimethyl-ammonio)-propenyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate as a light-brown powder.

reactant | (E)-(6R,7R)-7-amino-3-[3-(carbamoylmethyl-dimethyl-ammonio)-propenyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate monohydroiodide | 1.4 g | I.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])\C=C\C[N+](C)(C)CC(N)=O
reactant | (R)-2-bromo-propionyl chloride | 2.05 g | Br[C@@H](C(=O)Cl)C | C3H4BrClO
reactant | diethyl ether | 0.5 l | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dichloromethane acetonitrile | 24 ml | ClCCl.C(C)#N
product | (E)-(6R,7R)-7-[(R)-2-bromo-propionylamino]-3-[3-(carbamoylmethyl-dimethyl-ammonio)-propenyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | 1.3 g | Br[C@@H](C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])\C=C\C[N+](C)(C)CC(N)=O)C | C17H23BrN4O5S
